US07696223B2
a) 7-Hydroxy-2-pyridin-3-yl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
A mixture of 2-(5-bromo-pyridin-3-yl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (88 mg, 0.23 mmol), ammonium formate (296 mg, 4.63 mmol) and 10% Pd/C (114 mg) in ethyl acetate (7 mL) was refluxed for 21 h before it was cooled to room temperature and filtered. The filtrate was washed with saturated sodium bicarbonate, water, dried and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of methanol and dichloromethane dried in vacuo to give the title compound as a yellow solid (27 mg): MS: (+) m/z 302.07 (M+1); (−) m/z 300.27 (M−1).

reactant | 2-(5-bromo-pyridin-3-yl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.23 mmol, 88 mg | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C=2C=NC=C(C2)Br)O | C14H10BrN3O3S
reactant | ammonium formate | 4.63 mmol, 296 mg | C(=O)[O-].[NH4+]
solvent | ethyl acetate | 7 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 114 mg | [Pd] | Pd
product | 7-Hydroxy-2-pyridin-3-yl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 27 mg | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C=2C=NC=CC2)O | C14H11N3O3S
